US04703054
2,2-Dimethyl-1-[2-(4-hydroxy-2-oxo-1-pyrrolidineacetamido)acetyl]-4-imidazolidinone
Into an ice cold solution of 4-hydroxy-2-oxo-1-pyrrolidineacetic acid (0.95 g) and 1-(2-aminoacetyl)-2,2-dimethyl-4-imidazolidinone (1 g) in dimethylsulfoxide (30 ml) a solution of DCC (1,22 g) in tetrahydrofuran (10 ml) was added dropwise. The solution was stirred at room temperature overnight and then heated at 50° for 4 hours. After cooling the solution was diluted with water and the resulting precipitate was filtered off. The filtrate was evaporated to dryness under vacuum. The residue was dissolved in water and eluted on a column of Amberlite IR 120H (20 ml). The eluate was treated with Amberlite IRA 68 (10 ml), filtered and evaporated under vacuum. The residue was triturated with isopropanol to yield 0.4 g of the title compound, m.p. 227°-229° .

reactant | 4-hydroxy-2-oxo-1-pyrrolidineacetic acid | 0.95 g | OC1CC(N(C1)CC(=O)O)=O | C6H9NO4
reactant | 1-(2-aminoacetyl)-2,2-dimethyl-4-imidazolidinone | 1 g | NCC(=O)N1C(NC(C1)=O)(C)C | C7H13N3O2
reactant | DCC | 1,22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2,2-Dimethyl-1-[2-(4-hydroxy-2-oxo-1-pyrrolidineacetamido)acetyl]-4-imidazolidinone | 0.4 g | CC1(N(CC(N1)=O)C(CNC(CN1C(CC(C1)O)=O)=O)=O)C | C13H20N4O5
